US04783514
1-(p-tert-butylphenyl)-2-(4-benzocyclobutenyl)ethene Monomer
A solution of 3.0 g 4-bromobenzocyclobutane, 2.6 g 4-tert-butylstyrene, 3.0 g tri-n-butylamine, 150 mg tri-o-tolylphosphine, 36 mg palladium (II) acetate, and 10 ml acetonitrile is stirred under nitrogen at reflux for 4 hours. The reaction mixture is poured into 60 ml of 10 percent HCl. The product is isolated by filtration, dried, recrystallized from ethanol, and isolated. About 1.8 g of monomer is prepared.

reactant | 4-bromobenzocyclobutane | 3.0 g | BrC1=CC2=C(CC2)C=C1 | C8H7Br
reactant | 4-tert-butylstyrene | 2.6 g | C(C)(C)(C)C1=CC=C(C=C)C=C1 | C12H16
reactant | tri-n-butylamine | 3.0 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tri-o-tolylphosphine | 150 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | HCl | 60 ml | Cl | ClH
catalyst | palladium (II) acetate | 36 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(p-tert-butylphenyl)-2-(4-benzocyclobutenyl)ethene | C(C)(C)(C)C1=CC=C(C=C1)C=CC1=CC2=C(C=C2)C=C1 | C20H20
